* Z:\mnt\design.r\spice\examples\3888-1.asc
V1 IN 0 12
C1 N002 0 2.2µ
C3 N004 0 4.7µ
R1 N002 N005 100K
R2 N002 N012 100K
XU5 N003 N015 N003 0 MP_01 MP_02 N020 N003 N003 IN N009 0 N007 N005 N005 N018 N014 LTC7050
L1 N009 OUT0 0.2µ
C2 OUT0 0 1320µ
R3 OUT0 0 300m
R4 N018 N001 500
R5 N007 N001 500
R6 N002 N011 100K
L2 N014 OUT0 0.2µ
C4 N026 0 100p
C5 N030 0 3300p
C6 N027 0 100p
C7 N031 0 3300p
XU2 N003 N034 N003 0 MP_03 MP_04 N040 N003 N003 IN N032 0 N028 N005 N005 N038 N036 LTC7050
L3 N032 OUT0 0.2µ
L4 N036 OUT0 0.2µ
R8 N028 N001 500
R9 N001 N038 500
XU3 N003 N016 N003 0 MP_05 MP_06 N021 N003 N003 IN N010 0 N008 N006 N006 N019 N017 LTC7050
L5 N010 OUT1 0.2µ
C8 OUT1 0 1320µ
R10 OUT1 0 500m
L6 N017 OUT1 0.2µ
XU4 N003 N035 N003 0 MP_07 MP_08 N041 N003 N003 IN N033 0 N029 N006 N006 N039 N037 LTC7050
L7 N033 OUT1 0.2µ
L8 N037 OUT1 0.2µ
R11 N008 N001 500
R12 N019 N001 500
R13 N029 N001 500
R14 N001 N039 500
R15 N002 N013 10K
V2 N003 0 6
R7 N002 N006 100K
R16 N022 N024 42.2K
R17 0 N024 28K
R18 N023 N025 97.6K
R19 0 N025 28K
XU1 N015 N016 N007 N008 N020 0 OUT0 N022 N026 N030 N011 N023 N024 0 N025 N013 MP_09 MP_10 MP_11 N005 N006 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 MP_18 MP_19 N002 N004 IN N001 MP_20 MP_21 N012 N031 N027 MP_22 OUT1 0 N034 N018 N028 N040 N041 N038 N039 N035 N021 N029 N019 0 LTC3888-1 LTC3888-1
* *************** READ ME **********************************************************************\n \nThis model does not cover the PMBUS and SPI functions of this IC.\nTherefore, many things controlled by the PMBUS are configured by CTRL + right click on the IC.\nShare_CLK is NOT modelled. The SYNC pin can only be used as an input and\n   it?s grounded when it?s not used. CLK_OUT pin is provided to allow clock out function.\nResistor setting pins like Vout_CFG are not modeled.\nVout and PWM_config must be set by CTRL by right-clicking on the IC.\n \nFrequency_Switch=500 sets the frequency in kHz between 250 and 1000.\nPWM_config=3 controls the phasing and master/slave configuration of the 8 channels.\nA decimal number is used for the 3-bit binary number. The description starts on page 72 of the datasheet.\n \n# (PWM0: PWM1)\n7 (7 phase: 1 Phase)\n6 (6 phase: 2 Phase)\n5 (6 phase: 1 phase)\n4 (5 phase: 3 phase)\n3 (4 phase: 4 phase)\n2 (4 phase: 3 phase)\n1 (4 phase: 2 phase)\n0 (3 phase: 3 phase)\n \nVout0=2.5 and Vout1=3 program the output voltage in a range from 0.3 to 3.45V\nGM0=3m and GM1=3m program the gain the Error Amplifier in range from 1 to 5.73mS\nIout_Cal_Gain=5m should match the voltage gain of the chosen current sense (V/A)\nRith0=5k and Rith1=5k program the compensation resistor in series\n   with Cithr on the output of the error amplifier in a range from 1k to 62k\nTon_Min=45n programs the minimum on time of the PWM outputs\n \nOC_Limit0=20  OC_Limit1=20 program approximately the\n   DC the current limit of the each phase used for that converter. \n \nTon_Delay0=0 and Ton_Delay1=0 set the delay from when the RUN pin goes high until the soft-start begins\nToff_Delay0=0 and Toff_Delay1=0 set the delay from when the RUN pin goes low until the turn-off ramp begins\n \nVOUT_UV_Fault_Limit0=2.2 and VOUT_UV_Fault_Limit1=2.8 program the undervoltage fault limit for the Pgood output\nVOUT_OV_Fault_Limit0=2.6 and VOUT_OV_Fault_Limit1=3.1 program the overvoltage fault limit for the Pgood output\n \nSlave0 and Slave1 set slave channel. 0 disable,1 enable. If enabled the error amplifier is open circuit
.tran 1m startup
.lib LTC3888-1.sub
.lib LTC7050.sub
.backanno
.end
